US08609847B2
(2) Preparation of tert-butyl 4-(1-(4-fluorophenyl)-2-oxo-1,2,3,4-tetrahydroquinolin-6-yloxy)piperidine-1-carboxylate
A suspension of tert-butyl 4-(2-oxo-1,2,3,4-tetrahydroquinolin-6-yloxy)piperidine-1-carboxylate prepared in Example 7-(1) (3.0 g), 1-fluoro-4-iodobenzene (2.9 g), rac-trans-N,N′-dimethylcyclohexane-1,2-diamine (1.2 g), copper iodide (0.41 g) and cesium carbonate (5.6 g) in toluene (8.0 mL) was stirred at 100° C. for 4 hours. The reaction mixture was cooled to room temperature, diluted with toluene and filtered to remove insoluble materials. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting solvent: hexane/ethyl acetate=7/3 to 1/4) to give the titled compound (3.8 g, 99%) as a colorless amorphous substance.

reactant | tert-butyl 4-(2-oxo-1,2,3,4-tetrahydroquinolin-6-yloxy)piperidine-1-carboxylate | O=C1NC2=CC=C(C=C2CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C19H26N2O4
reactant | 1-fluoro-4-iodobenzene | 2.9 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | rac-trans-N,N′-dimethylcyclohexane-1,2-diamine | 1.2 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | cesium carbonate | 5.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 8.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper iodide | 0.41 g | [Cu](I)I
product | tert-butyl 4-(1-(4-fluorophenyl)-2-oxo-1,2,3,4-tetrahydroquinolin-6-yloxy)piperidine-1-carboxylate | 3.8 g, 99% | FC1=CC=C(C=C1)N1C(CCC2=CC(=CC=C12)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C25H29FN2O4
